### PR TITLE
Erdős Problem 705

### LINKED ISSUE #906: Erdős Problem 705
### What is the conjecture

https://www.erdosproblems.com/705

  Let $G$ be a finite unit distance graph in $\mathbb{R}^2$ (i.e. the vertices are a finite collection of points in $\mathbb{R}^2$ and there is an edge between two points if and only if the distance between them is $1$).

Is there some $k$ such that if $G$ has girth $\geq k$ (i.e. $G$ contains no cycles of length $<k$) then $\chi(G)\leq 3$?

Status:  open

### PR DESCRIPTION
**Pull request by 80mb3rm4n**
fixes #906

### CODE REVIEW

File: FormalConjectures/ErdosProblems/705.lean [hunk 1]
```diff
@@ -0,0 +1,50 @@
...
+
+/-!
+# Erdős Problem 705
+
+*Reference:* [erdosproblems.com/705](https://www.erdosproblems.com/705)
+-/
+
+namespace Erdos705
+
+open Erdos705
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/705.lean]:
```suggestion
open scoped EuclideanGeometry
```

File: FormalConjectures/ErdosProblems/705.lean [hunk 2]
```diff
@@ -0,0 +1,50 @@
...
+
+variable {V : Finset (EuclideanSpace ℝ (Fin 2))}
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/705.lean]:
```suggestion
variable {V : Finset ℝ²}
```
this should work with `open scoped EuclideanGeometry`

File: FormalConjectures/ErdosProblems/705.lean [hunk 3]
```diff
@@ -0,0 +1,50 @@
...
+
+/--
+A finite unit distance graph in ℝ^2:
+A graph where the vertices are a finite collection of points in ℝ² and there is an edge between
+two points if and only if the distance between them is 1.
+-/
+
+def unitDistancePlaneGraph (G : SimpleGraph V) : Prop :=
+  ∀ x y : V, G.Adj x y ↔ dist x y = 1
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/705.lean]: potentially merge definitions with https://github.com/google-deepmind/formal-conjectures/blob/a91ab6df34970fdd0fd8c919e693b2ba81fa4fbb/FormalConjectures/Wikipedia/HadwigerNelson.lean#L33 
I know this is slightly different, but perhaps one could make a more general definition and then special case in both files. I suppose there will be more conjectures talking about the unit distance graph.
Or just leave a TODO for it.

File: FormalConjectures/ErdosProblems/705.lean [hunk 4]
```diff
@@ -0,0 +1,50 @@
...
+/--
+Let G be a finite unit distance graph in R².
+Is there some k such that if G has girth ≥ k, then χ(G) ≤ 3?
+-/
+
+@[category research open, AMS 5]
+theorem erdos_705:
+  (∀ (G : SimpleGraph V) (h : unitDistancePlaneGraph G),
+    ∃ k, SimpleGraph.girth G ≥ k → SimpleGraph.chromaticNumber G ≤ 3) ↔ answer(sorry) := by sorry
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/705.lean:42]: Please add a TODO for the statements in the additional material (the concrete constructions etc)

File: FormalConjectures/ErdosProblems/705.lean (hunk 3 above)
Comment (80mb3rm4n) [reply FormalConjectures/ErdosProblems/705.lean]: We generalized the definition and updated it in both files. The definition appears in the Definition file of the directory GraphConjectures

File: FormalConjectures/ForMathlib/Combinatorics/SimpleGraph/GraphConjectures/Definitions.lean [hunk 5]
```diff
@@ -87,4 +88,16 @@ noncomputable def indepNeighbors (G : SimpleGraph α) (v : α) : ℝ :=
 noncomputable def averageIndepNeighbors (G : SimpleGraph α) : ℝ :=
   (∑ v ∈ Finset.univ, indepNeighbors G v) / (Fintype.card α : ℝ)
 
+/-- A finite unit distance graph in ℝ^2:
+A graph where the vertices are a finite collection of points in ℝ² and there is an edge between
+two points if and only if the distance between them is 1. -/
```
Comment (mo271) [inline FormalConjectures/ForMathlib/Combinatorics/SimpleGraph/GraphConjectures/Definitions.lean]: Please update the docstring: now there is not finiteness condition here anymore, right?

**Review by mo271 — APPROVED** [review]
Looks good to me, modulo the comment about the docstring.

Nice to unify the files in this way!

File: FormalConjectures/ForMathlib/Combinatorics/SimpleGraph/GraphConjectures/Definitions.lean (hunk 5 above)
Comment (80mb3rm4n) [reply FormalConjectures/ForMathlib/Combinatorics/SimpleGraph/GraphConjectures/Definitions.lean]: True, now it simply passes the set of vertices of \R^2, which could be finite or infinite

File: FormalConjectures/ErdosProblems/705.lean [hunk 6]
```diff
@@ -0,0 +1,43 @@
...
+/--
+Let G be a finite unit distance graph in R².
+Is there some k such that if G has girth ≥ k, then χ(G) ≤ 3?
+-/
+@[category research open, AMS 5]
+theorem erdos_705:
+  (∀ (V : Set ℝ²) (hf: V.Finite),
+    ∃ k, (UnitDistancePlaneGraph V).girth ≥ k → (UnitDistancePlaneGraph V).chromaticNumber ≤ 3) ↔
+    answer(sorry) := by sorry
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/705.lean:38]: You need `∧` rather than `→` otherwise there is a contradiction by choosing any `k > (UnitDistancePlaneGraph V).girth`
```suggestion
  (∀ (V : Set ℝ²) (hf: V.Finite),
    ∃ k, (UnitDistancePlaneGraph V).girth ≥ k ∧ (UnitDistancePlaneGraph V).chromaticNumber ≤ 3) ↔
    answer(sorry) := by sorry
```

Comment (80mb3rm4n) [reply FormalConjectures/ErdosProblems/705.lean:38]: You are right, I think the original statement in the Erd\H{o}s problems webpage has also this problem.
